2183-08-06 15:19:00 Physician Resident Progress Note
Chief Complaint: AMS
   24 Hour Events:
 ENDOSCOPY - At [**2183-8-5**] 04:04 PM
 FEVER - 101.2
F - [**2183-8-5**] 08:00 PM
   -EGD: no varices, grade 2 esphoagitis, localized gastric erosion c/w NG
   tube trama
   History obtained from Patient, Family / Friend
   Allergies:
   History obtained from Patient, Family / FriendNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-8-5**] 04:00 PM
   Vancomycin - [**2183-8-6**] 08:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-8-6**] 10:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-5**] 09:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Edema
   Respiratory: Cough
   Gastrointestinal: Abdominal pain, Constipation
   Heme / Lymph: Anemia
   Pain: [**1-1**] Minimal
   Pain location: right side of chest
   Flowsheet Data as of  [**2183-8-6**] 03:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 72 (67 - 92) bpm
   BP: 123/66(81) {112/47(68) - 140/83(96)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,420 mL
                                                                    742 mL
   PO:
             TF:
   IVF:
                                                                    430 mL
                                                                    742 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    700 mL
   Urine:
                                                                  2,295 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -875 mL
                                                                     42 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : L
   base), (Breath Sounds: Crackles : , Bronchial: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): AAOx2, Movement: Not assessed, Tone: Normal
   Labs / Radiology
   53 K/uL
   9.0 g/dL
   90 mg/dL
   0.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   8 mg/dL
   105 mEq/L
   139 mEq/L
   26.4 %
   4.8 K/uL
        [image002.jpg]
                             [**2183-8-3**]  06:32 PM
                             [**2183-8-3**]  11:56 PM
                             [**2183-8-4**]  04:00 AM
                             [**2183-8-4**]  08:32 AM
                             [**2183-8-4**]  04:40 PM
                             [**2183-8-4**]  09:30 PM
                             [**2183-8-5**]  03:24 AM
                             [**2183-8-5**]  09:28 AM
                             [**2183-8-5**]  04:19 PM
                             [**2183-8-6**]  03:36 AM
   WBC
   9.8
   9.9
   5.2
   5.6
   4.8
   Hct
   26.0
   25.6
   26.5
   24.9
   24.9
   27.4
   23.1
   28.6
   27.6
   26.4
   Plt
   52
   53
   45
   60
   61
   53
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   Glucose
   107
   99
   109
   104
   90
   Other labs: PT / PTT / INR:16.0/31.7/1.4, ALT / AST:17/43, Alk Phos / T
   Bili:42/1.1, Amylase / Lipase:161/97, Albumin:2.8 g/dL, LDH:136 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Fluid analysis / Other labs: Echo: The left atrium is dilated. There is
   moderate symmetric left ventricular hypertrophy. The left ventricular
   cavity size is normal. Left ventricular systolic function is
   hyperdynamic (EF>75%). Right ventricular chamber size and free wall
   motion are normal. The aortic valve leaflets (3) appear structurally
   normal with good leaflet excursion. Trace aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. Trivial mitral
   regurgitation is seen. There is borderline pulmonary artery systolic
   hypertension. There is no pericardial effusion.
   No vegetations seen (cannot definitively exclude).
   Imaging: There is interval significant increase in left lower lobe
   consolidation which
   appears to be progressing since [**2183-8-3**] and highly suspicious
   for developing left lower lobe pneumonia. The right middle lobe opacity
   is unchanged and may represent a focus of infection and/or atelectasis.
   The upper lungs are unremarkable. There is no evidence of failure.
   Small left pleural effusion cannot be excluded.
   Microbiology: -lab error no positive BCx
   Assessment and Plan
   A/P: 52 yo male with h/o Hep C cirrhosis, ETOH abuse who presented with
   coffee ground emesis and MS changes.
 GASTROINTESTINAL BLEED, UPPER/ANEMIA-pt presented with history of
   hematemasis and drop in hemocrit. However, etiology remains unclear
   especially with EGD yesterday that did not find upper GI source. Pt
   also has h/o diverticulosis but no BRBPR.   Overnight had a drop in Hct
   from 28.6-26.4. [**Month (only) 60**] be alternative source in setting of pancreatitis
   and fall in ED.
   -also required platlets to keep >50
   -Protonix IV BID per GI recs
   -start diet of clear and advance if tolerate, observe for aspiration
   and consult speech and swallow if suspected
   -q6 HCT and Platelet check; will transfuse for Hct <25, Platelets <50K
   -repeat CT abdomen with and without to find hematoma vs abscess
 FEVER-Pt still spiking fevers, likely due to pna that has progressed
   -continue broad spectrum abx with Vanc and Zosyn for picture c/w
   aspiration
   -TTE from yesterday-no vegetations, LVEF75%
   -CXR-as above shows progression of pneumonia in L base, will repeat
   CXR
   -f/u Urine culture
   -f/u sputum cultures-try to get induced sputum today
   -continue surveillence cultures
   -records from [**Hospital1 1817**] show history of pancreatitis on discharge days
   before admission here
 AMS-Pt came in with disorientation and garbled speech considered to
   be from withdrawal vs acute intoxication now improving
   -per [**Hospital1 1817**] records was discharged with Benzos and narcotics likely
   accounting for AMS since he has not received any here and has cleared
   -may have contributed to aspriation
   -IF MS does not improve will consider lactulose
   -fall precautions
 PANCYTOPENIA-pt w history of chronic thrombocytopenia, now with
   infection but no spike in WBC
   -confusing picture but may need to see heme as outpatient
 ODYNOPHAGIA-patient came in w dry mucous memranes and poor oral
   hygiene, DDx inlcudes phayngitis vs GERD vs poor oral hygiene
   - improved mouth care, humidified air seems
   -consider CT and then possibly ENT consult
   -no pain meds for now as patient has a history of abuse
 ETOH [**Name (NI) 3985**] Pt recently admitted for detox and currently denies ETOh
   use over past few weeks; however given strong h/o abuse will cover for
   possible withdrawal.
   -D/C CIWA scale
   -MVI, thiamine and folate
   -Restraints or 1:1 sitter if needed
   -Ativan prn
 PANCREATITIS, ACUTE-LFT abnl- Pt with mildly elevated amylase and
   lipase; has recent h/o pancreatitis. Also wtih elevated AST thought not
   surprising given ETOH abuse h/o but all elevated levels of liver
   function trending down.
   -Monitor for now
 CONJUNCTIVITIS-pt had R eye red and purulent at admission, now
   resolved with erythromycin opthal solution
   -willl follow
 HEPATITIS C- Followed by Dr [**First Name (STitle) 3827**]; recently completed course of
   Ribavarin in IFN. Pt does not appear encephalopathic any more.
   -reportedly had cirrhosis, but does not look like it with HSM and no
   varices
   -Consider Lactulose if MS does not improve
HTN- Hold home anti-HTNs for now given acute bleeding risk
   ICU Care
   Nutrition:
   Comments: Start on clears and advance as tolerated with caution for
   aspiration with MVI, thiamine and folate
   Glycemic Control:
   Lines:
   16 Gauge - [**2183-8-5**] 12:00 PM
   18 Gauge - [**2183-8-5**] 01:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2183-08-07 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-7**] 04:13 AM
   T 101.8
 URINE CULTURE - At [**2183-8-7**] 04:48 AM
 FEVER - 101.8
F - [**2183-8-7**] 04:00 AM
 Pt had had hiccups all night
 CT abd now being read with ? of acute chole, also with worsening of L
   and R pneumonia and parapneumonic effusions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-8-5**] 04:00 PM
   Vancomycin - [**2183-8-6**] 08:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-8-7**] 12:05 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-6**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt says feeling pt, still with dry cough with deep
   inspiration
   Flowsheet Data as of  [**2183-8-7**] 05:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 94 (67 - 95) bpm
   BP: 142/71(84) {113/59(72) - 142/83(96)} mmHg
   RR: 14 (12 - 17) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 80.3 kg
   Height: 71 Inch
             Total In:
                                                                  1,400 mL
                                                                    155 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                    950 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    370 mL
   Urine:
                                                                  1,890 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 91%
   ABG: ///27/
   Physical Examination
   Gen:NAD except with deep inhalation goes into coughing paroxysms
   CV: s1s2, RRR, no MRG, no ectopy
   Pulm: B/L crackles in bases
   Abd: +BS, mild tenderness diffusely with deep palpation, soft, nd
   Skin:  WNL
   Neurologic: AAOx2
   Labs / Radiology
   62 K/uL
   9.4 g/dL
   82 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   7 mg/dL
   99 mEq/L
   134 mEq/L
   27.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2183-8-4**]  04:00 AM
                             [**2183-8-4**]  08:32 AM
                             [**2183-8-4**]  04:40 PM
                             [**2183-8-4**]  09:30 PM
                             [**2183-8-5**]  03:24 AM
                             [**2183-8-5**]  09:28 AM
                             [**2183-8-5**]  04:19 PM
                             [**2183-8-6**]  03:36 AM
                             [**2183-8-6**]  03:34 PM
                             [**2183-8-7**]  02:32 AM
   WBC
   5.2
   5.6
   4.8
   4.8
   Hct
   26.5
   24.9
   24.9
   27.4
   23.1
   28.6
   27.6
   26.4
   28.8
   27.1
   Plt
   45
   60
   61
   53
   62
   Cr
   0.7
   0.7
   0.6
   0.7
   Glucose
   109
   104
   90
   82
   Other labs: PT / PTT / INR:16.1/29.2/1.4, ALT / AST:16/42, Alk Phos / T
   Bili:46/1.0, Amylase / Lipase:162/102, Albumin:2.8 g/dL, LDH:181 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   CT abd [**8-6**]
   Provisional Findings Impression: [**First Name9 (NamePattern2) 4023**] [**Doctor First Name **] [**2183-8-7**] 4:55 AM
   1. No evidence of intra-abdominal hematoma.
   2. Worsening pneumonia at the left lung base with new foci of infection
   at
   the right lung base and bilateral parapneumonic effusions.
   3. Gallbladder wall edema and pericholecystic fluid in the setting of a
   gallstone raise concern for cholecystitis in the right clinical
   setting.
   [**8-6**] Sputum culture  contaminated with oropharyngeal flora
   Assessment and Plan
   A/P: 52 yo male with h/o Hep C cirrhosis, ETOH abuse who presented with
   coffee ground emesis and MS changes.
 ASPIRATION PNEUMONIAFEVER-Pt still spiking fevers, likely due to pna
   that has progressed
   -change Abx to Levoquin picture c/w aspiration, irritation of diaphragm
   likely causing hiccups
   -TTE from yesterday-no vegetations, LVEF75%
   -CXR-as above shows progression of pneumonia in L base, will repeat
   CXR
   -CT abd show progression of B/L pneumonia
   -f/u Urine culture
   -f/u sputum cultures-try to get induced sputum today
   -continue surveillence cultures
   -records from [**Hospital1 1817**] show history of pancreatitis on discharge days
   before admission here
 ABDOMINAL PAIN-pt has h/o of pancreatitis with amylase/lipase
   trending down
   -will continue to monitor
   -no RUQ pain as CT Abd might suggest
   -mild diffuse tenderness on deep palpation
 GASTROINTESTINAL BLEED, UPPER/ANEMIA-pt presented with history of
   hematemasis and drop in hemocrit. However, etiology remains unclear
   especially with EGD yesterday that did not find upper GI source except
   esophagitis. Pt also has h/o diverticulosis but no BRBPR.   Overnight
   had a drop in Hct from 28.6-27.1.
   -still with slow trend down in Hct, could be related to pancytopenia
   -also required platlets to keep >50
   -Protonix IV BID per GI recs
   -start diet of clear and advance if tolerate, observe for aspiration
   and consult speech and swallow if suspected
   -q6 HCT and Platelet check; will transfuse for Hct <25, Platelets <50K
   -repeat CT abdomen notc/w hematoma as source
 AMS-Pt came in with disorientation and garbled speech considered to
   be from withdrawal vs acute intoxication now improving
   -per [**Hospital1 1817**] records was discharged with Benzos and narcotics likely
   accounting for AMS since he has not received any here and has cleared
   -may have contributed to aspriation
   -IF MS does not improve will consider lactulose
   -fall precautions
 PANCYTOPENIA-pt w history of chronic thrombocytopenia, now with
   infection but no spike in WBC, and anemia
   -confusing picture but may need to see heme as outpatient
   -could be related to ribavarin treatment in past
 ODYNOPHAGIA-patient came in w dry mucous memranes and poor oral
   hygiene, DDx inlcudes phayngitis vs GERD vs poor oral hygiene
   - improved mouth care, humidified air seems
   -can be attributed to esophagitis, improved on PPI
   -no pain meds for now as patient has a history of abuse
 ETOH [**Name (NI) 3985**] Pt recently admitted for detox and currently denies ETOh
   use over past few weeks; however given strong h/o abuse will cover for
   possible withdrawal.
   -D/C CIWA scale
   -MVI, thiamine and folate
   -Restraints or 1:1 sitter if needed
   -Ativan prn
 PANCREATITIS, ACUTE-LFT abnl- Pt with mildly elevated amylase and
   lipase; has recent h/o pancreatitis. Also wtih elevated AST thought not
   surprising given ETOH abuse h/o but all elevated levels of liver
   function trending down.
   -Monitor for now
 CONJUNCTIVITIS-pt had R eye red and purulent at admission, now
   resolved with erythromycin opthal solution
   -willl follow
 HEPATITIS C- Followed by Dr [**First Name (STitle) 3827**]; recently completed course of
   Ribavarin in IFN. Pt does not appear encephalopathic any more.
   -reportedly had cirrhosis, but does not look like it with HSM and no
   varices
   -Consider Lactulose if MS does not improve
HTN- Hold home anti-HTNs for now given acute bleeding risk
   ICU Care
   Nutrition:
   Comments: Start on clears and advance as tolerated with caution for
   aspiration with MVI, thiamine and folate
   Glycemic Control:
   Lines:
   16 Gauge - [**2183-8-5**] 12:00 PM
   18 Gauge - [**2183-8-5**] 01:12 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:d/c to regular floor

2183-08-07 11:05:00 Physician Attending Progress Note
Chief Complaint: coughing
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2183-8-7**] 04:13 AM
   T 101.8
 URINE CULTURE - At [**2183-8-7**] 04:48 AM
 FEVER - 101.8
F - [**2183-8-7**] 04:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2183-8-5**] 04:00 PM
   Vancomycin - [**2183-8-6**] 08:21 AM
   Piperacillin/Tazobactam (Zosyn) - [**2183-8-7**] 09:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-8-7**] 09:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Abdominal pain, No(t) Nausea
   Flowsheet Data as of  [**2183-8-7**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (99
   HR: 87 (72 - 95) bpm
   BP: 111/69(74) {111/32(48) - 142/78(89)} mmHg
   RR: 17 (9 - 17) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81 kg (admission): 80.3 kg
   Height: 71 Inch
             Total In:
                                                                  1,400 mL
                                                                    370 mL
   PO:
                                                                    450 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    950 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,890 mL
                                                                    850 mL
   Urine:
                                                                  1,890 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -490 mL
                                                                   -480 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : L base, No(t) Wheezes : )
   Abdominal: Soft, Tender: mid-epigastric
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   62 K/uL
   82 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   7 mg/dL
   99 mEq/L
   134 mEq/L
   27.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2183-8-4**]  04:00 AM
                             [**2183-8-4**]  08:32 AM
                             [**2183-8-4**]  04:40 PM
                             [**2183-8-4**]  09:30 PM
                             [**2183-8-5**]  03:24 AM
                             [**2183-8-5**]  09:28 AM
                             [**2183-8-5**]  04:19 PM
                             [**2183-8-6**]  03:36 AM
                             [**2183-8-6**]  03:34 PM
                             [**2183-8-7**]  02:32 AM
   WBC
   5.2
   5.6
   4.8
   4.8
   Hct
   26.5
   24.9
   24.9
   27.4
   23.1
   28.6
   27.6
   26.4
   28.8
   27.1
   Plt
   45
   60
   61
   53
   62
   Cr
   0.7
   0.7
   0.6
   0.7
   Glucose
   109
   104
   90
   82
   Other labs: PT / PTT / INR:16.1/29.2/1.4, ALT / AST:16/42, Alk Phos / T
   Bili:46/1.0, Amylase / Lipase:162/102, Albumin:2.8 g/dL, LDH:181 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 PANCYTOPENIA
 PANCREATITIS, ACUTE
   DM Type II
   Clinically he is improving - more alert, eating.  Cough remains
   prominent and CXR and CT both show worsening LLL process with some
   spread to R base.  Remains febrile but WBC is stable at ~5 w/o L shift
   and he clinically looks better.  We are not covering atypicals so will
   start Levoquinb and d/c Zosyn.  CT is somewhat concenring for
   developing cholecystitis and his amylase remains elevated. Need to
   monitor this closely but his exam shows no RUQ tenderness and LFT have
   been stable to improved
   ICU Care
   Nutrition:
   Comments: Full diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2183-8-5**] 12:00 PM
   18 Gauge - [**2183-8-5**] 01:12 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes